US04607041
1-Chloro-4-fluoro-2-(trifluoromethyl)benzene
4-Chloro-3-(trifluoromethyl)benzenamine (19.5 g, 100 mmoles), water (40 ml) and c.hydrochloric acid (40 ml) were heated with stirring on a steam bath until a white solid formed. The mixture was cooled (ice-salt bath) and a solution of sodium nitrite (7 g, 101 mmoles) in water (15 ml) was added over 15 mins. After stirring for a further hour at 0°, tetrafluoroboric acid (30 g of 40% aqueous solution) was added dropwise over 15 minutes. After one hour the solid was filtered off, washed with water (10 ml), methanol (30 ml) and ether (30 ml) and then dried in vacuo. The dry compound was heated at 140°-180° until no more fumes were observed. The cooled residue was dissolved in ethyl acetate, washed with 5% aqueous sodium hydroxide, dried Na2SO4) and the solvent was removed in vacuo. The residue was distilled in vacuo (12 mmHg, oven temperature 50°-55°) to give the sub-title compound as a colourless oil (7.5 g). M+ 200/198; nmr (CDCl3)δ7.8-7.2 (m).

reactant | 4-Chloro-3-(trifluoromethyl)benzenamine | 100 mmoles, 19.5 g | ClC1=C(C=C(C=C1)N)C(F)(F)F | C7H5ClF3N
reactant | hydrochloric acid | 40 ml | Cl | ClH
reactant | sodium nitrite | 101 mmoles, 7 g | N(=O)[O-].[Na+]
reactant | tetrafluoroboric acid | 30 g | F[B-](F)(F)F.[H+]
solvent | water | 15 ml | O | H2O
solvent | water | 40 ml | O | H2O
product | 1-Chloro-4-fluoro-2-(trifluoromethyl)benzene | 7.5 g | ClC1=C(C=C(C=C1)F)C(F)(F)F | C7H3ClF4
